US07713964B2
4-{2-[1-benzhydryl-5-chloro-2-(2-{[(2-hydroxyphenyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethoxy}benzoic acid
Methyl 4-(2-{1-benzhydryl-2-[2-(2-benzyloxy-benzenesulfonylamino)-ethyl ]-5-chloro-1H-indol-3-yl}-ethoxy)-benzoate (0.55 g, 0.70 mmol), (Step 1, Example 184) and 10% Pd/C (55 mg) in MeOH (30 ml) and EtOH (20 ml) was hydrogenated. The resulting mixture was filtered through Celite and concentrated. The residue was chromatographed with 35-40% EtOAC/hexane to give the desired product (0.50 g, 95%).

reactant | Methyl 4-(2-{1-benzhydryl-2-[2-(2-benzyloxy-benzenesulfonylamino)-ethyl ]-5-chloro-1H-indol-3-yl}-ethoxy)-benzoate | 0.70 mmol, 0.55 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCOC1=CC=C(C(=O)OC)C=C1)CCNS(=O)(=O)C1=C(C=CC=C1)OCC1=CC=CC=C1 | C46H41ClN2O6S
solvent | MeOH | 30 ml | CO | CH4O
solvent | EtOH | 20 ml | CCO | C2H6O
catalyst | Pd/C | 55 mg | [Pd] | Pd
product | 4-{2-[1-benzhydryl-5-chloro-2-(2-{[(2-hydroxyphenyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethoxy}benzoic acid | 0.50 g, 95% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCOC1=CC=C(C(=O)O)C=C1)CCNS(=O)(=O)C1=C(C=CC=C1)O | C38H33ClN2O6S
